US07189851B2
Ethyl (9aS)-2-(2,4-difluorobenzyl)-4-(4-{[(2-furylmethyl)amino]carbonyl}phenyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate
4-[(9aS)-2-(2,4-Difluorobenzyl)-3-(ethoxycarbonyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4-yl]benzoic acid (0.120 g, 0.244 mmol) was dissolved in 2 mL DCM. 2-Furfurylamine (0.035 g, 0.365 mmol) was added followed by EDC (0.070 g, 0.365 mmol). After 3 h, the reaction mixture was diluted with EtOAc and washed with pH 4.0 buffer (3×), saturated NaHCO3, brine, and dried over MgSO4. Purification on SiO2 (hexanes:EtOAc 1:1 to 1:2) provided the title compound as a white solid (0.082 g, 0.14 mmol, 59%): 1H NMR (400 MHz, CDCl3) δ 7.81 (d, J=8.0 Hz, 2H), 7.43 (d, J=8.0 Hz, 2H), 7.17 (m, 1H), 6.78 (m, 2H), 6.43 (t, J=5.2 Hz, 1H), 6.34 (m, 1H), 6.30 (m, 1H), 4.69 (dd, J=12.4, 6.4 Hz, 1H), 4.64 (d, J=5.6 Hz, 2H), 4.31 (AB, J=15.6, 2H), 3.90 (dq, J=7.2, 2.0 Hz, 2H), 3.68 (m, 1H), 3.35 (m, 1H), 2.45 (m, 1H), 2.30 (m, 2H), 1.38 (m, 1H), 0.85 (t, J=7.2 Hz, 3H) ppm. ESMS m/z 572 (M+H)+, 604 (M+Na)+. Anal. calcd. for C32H27F2N3O5.¼H2O: C, 66.72; H, 4.81; N, 7.29; found: C, 66.70; H, 4.70; N, 7.21.

reactant | 4-[(9aS)-2-(2,4-Difluorobenzyl)-3-(ethoxycarbonyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4-yl]benzoic acid | 0.244 mmol, 0.120 g | FC1=C(CC=2C(=C(C3=C([C@@H]4CCCN4C3=O)N2)C2=CC=C(C(=O)O)C=C2)C(=O)OCC)C=CC(=C1)F | C27H22F2N2O5
reactant | 2-Furfurylamine | 0.365 mmol, 0.035 g | C1=COC(=C1)CN | C5H7NO
reactant | EDC | 0.365 mmol, 0.070 g
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl (9aS)-2-(2,4-difluorobenzyl)-4-(4-{[(2-furylmethyl)amino]carbonyl}phenyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate | 0.14 mmol, 0.082 g, 59% | FC1=C(CC=2C(=C(C3=C([C@@H]4CCCN4C3=O)N2)C2=CC=C(C=C2)C(=O)NCC=2OC=CC2)C(=O)OCC)C=CC(=C1)F | C32H27F2N3O5
